US07888352B2
4-(2-Chloro-7-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperazine-1-carboxylic acid tert-butyl ester (200 mg), prepared as in Example 118, was coupled to 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-4-trifluoromethyl-pyrimidin-2-ylamine via General Procedure A to yield 30 mg of 4-[2-(2-Amino-4-trifluoromethyl-pyrimidin-5-yl)-7-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester.

reactant | 4-(2-Chloro-7-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperazine-1-carboxylic acid tert-butyl ester | 200 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=C(C=2N=C(N=C(C2S1)N1CCOCC1)Cl)C | C21H30ClN5O3S
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-4-trifluoromethyl-pyrimidin-2-ylamine | CC1(OB(OC1(C)C)C=1C(=NC(=NC1)N)C(F)(F)F)C | C11H15BF3N3O2
product | 4-[2-(2-Amino-4-trifluoromethyl-pyrimidin-5-yl)-7-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester | 30 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=C(C=2N=C(N=C(C2S1)N1CCOCC1)C=1C(=NC(=NC1)N)C(F)(F)F)C | C26H33F3N8O3S
